US05015640
starting from 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile and p-chlorobenzyl alcohol, there is obtained p-chlorobenzyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate, m.p. 103°-105° C.;

reactant | 5,7-dihydro-6H-dibenz[c,e]azepine-6-carbonitrile | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C#N | C15H12N2
reactant | p-chlorobenzyl alcohol | ClC1=CC=C(CO)C=C1 | C7H7ClO
product | p-chlorobenzyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC3=CC=C(C=C3)Cl)=N | C22H19ClN2O
